US07781443B2
(2R,4S)-4-[(5-Bromopyrimidin-2-yl)-(3-cyano-5-trifluoromethyl-benzyl)]amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (300 mg) is dissolved in toluene (4 ml), and thereto are added tris(dibenzylideneacetone)dipalladium (44 mg), sodium tert-butoxide (70 mg), 2-(di-tert-butylphosphino)biphenyl (58 mg) and acetyl piperazine (93 mg). The mixture is stirred at room temperature for 1 hour under nitrogen flow, then heated at 50° C. and stirred for 5.5 hours, and partitioned by adding a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=1:1→0:1) to give (2R,4S)-4-{[5-(4-acetylpiperazin-1-yl)pyrimidin-2-yl]-(3-cyano-5-trifluoromethyl-benzyl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (177 mg). MS (m/z): 667 [M+H]+.

reactant | (2R,4S)-4-[(5-Bromopyrimidin-2-yl)-(3-cyano-5-trifluoromethyl-benzyl)]amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC(C1=CC(=CC(=C1)C(F)(F)F)C#N)C1=NC=C(C=N1)Br)CC | C27H26BrF3N6O3
reactant | sodium tert-butoxide | 70 mg | CC(C)([O-])C.[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 58 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | acetyl piperazine | 93 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2R,4S)-4-{[5-(4-acetylpiperazin-1-yl)pyrimidin-2-yl]-(3-cyano-5-trifluoromethyl-benzyl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 177 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC(C1=CC(=CC(=C1)C(F)(F)F)C#N)C1=NC=C(C=N1)N1CCN(CC1)C(C)=O)CC | C33H37F3N8O4
